US04599409
3,8-Di-(pyrrolidinomethyleneamino)-6(5H)-phenanthridone
A suspension of 3,8-diamino-6-(5H)-phenanthridone (500 mg) in tetrahydrofuran (5 ml) was added to a mixture of phosphorus oxychloride (0.75 ml) and N-formylpyrrolidine (2.5 ml) and tetrahydrofuran (5 ml), the temperature of the mixture being kept at 5° C. The resulting mixture was stirred for 30 minutes at room temperature, heated at 50° C. for 1 hour and worked as described in Example 8, paragraph 1. Yield 52%, melting point 280° C. (decomposition) (CHCl3 /methanol).

reactant | 3,8-diamino-6-(5H)-phenanthridone | 500 mg | NC=1C=CC=2C3=CC=C(C=C3C(NC2C1)=O)N | C13H11N3O
reactant | phosphorus oxychloride | 0.75 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-formylpyrrolidine | 2.5 ml | C(=O)N1CCCC1 | C5H9NO
reactant | CHCl3 methanol | C(Cl)(Cl)Cl.CO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3,8-Di-(pyrrolidinomethyleneamino)-6(5H)-phenanthridone | Yield 52% | N1(CCCC1)C=NC=1C=CC=2C3=CC=C(C=C3C(NC2C1)=O)N=CN1CCCC1 | C23H25N5O
